US09290460B2
1-(3-Carboxybenzyl)quinazoline-2,4(1H,3H)-dione
1-(3-methoxycarbonylbenzyl)quinazoline-2,4(1H,3H)-dione (1.6 g, 5.2 mmol), NaOH (0.31 g, 7.7 mmol), water (40 mL) and methanol (40 mL) were added into a 250 mL three-mouth flask. The mixture was refluxed and reacted for 3 hours. The methanol was removed via evaporation under reduced pressure after the reaction was finished. The mixture was adjusted to pH=2-3 by 3N HCl, forming many precipitates. The mixture was filtered and the solid was washed by water and methonal. The solids were dried to give the title compound as white solid (1.2 g, 78% yield). 1H NMR (300 M, DMSO-d6): 13.09 (brs, 1H), 11.77 (s, 1H), 8.01 (dd, J=7.7 and 1.4 Hz, 1H), 7.84-7.80 (m, 2H), 7.66-7.61 (m, 1H), 7.53 (d, J=7.8 Hz, 1H), 7.44 (t, J=7.7 Hz, 1H), 7.27-7.21 (m, 2H), 5.36 (s, 2H). MS: m/z 297.1 [M+H]+.

reactant | 1-(3-methoxycarbonylbenzyl)quinazoline-2,4(1H,3H)-dione | 5.2 mmol, 1.6 g | COC(=O)C=1C=C(CN2C(NC(C3=CC=CC=C23)=O)=O)C=CC1 | C17H14N2O4
reactant | NaOH | 7.7 mmol, 0.31 g | [OH-].[Na+]
reactant | water | 40 mL | O | H2O
solvent | methanol | 40 mL | CO | CH4O
product | 1-(3-Carboxybenzyl)quinazoline-2,4(1H,3H)-dione | 1.2 g, 78% yield | C(=O)(O)C=1C=C(CN2C(NC(C3=CC=CC=C23)=O)=O)C=CC1 | C16H12N2O4
